US08084606B2
Levorotatory (−)-1-[(4-chlorophenyl)phenylmethyl]piperazine (50 gm), 2-chloroethanol (31.4 gm), potassium iodide (1.3 gm) and sodium carbonate (40.8 gm) are taken in toluene (446 ml) and refluxed for 24 hours. The reaction mixture is cooled to 25-35° C., washed with water (285 ml) followed by two times with water (each time 185 ml). The layers are separated. Toluene is evaporated from organic layer under reduced pressure to yield 58 gm of levorotatory (−)-[2-[4-[(4-Chlorophenyl)-phenylmethyl]-1-piperazinyl]ethanol.

reactant | (−)-1-[(4-chlorophenyl)phenylmethyl]piperazine | 50 gm | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | 2-chloroethanol | 31.4 gm | ClCCO | C2H5ClO
reactant | potassium iodide | 1.3 gm | [I-].[K+]
reactant | sodium carbonate | 40.8 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 446 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-[(4-Chlorophenyl)-phenylmethyl]-1-piperazinyl]ethanol | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCO)C1=CC=CC=C1 | C19H23ClN2O
